US04289763
A solution of 14.0 g of 21-acetoxy-6α-chloro-11β-hydroxy-16α-methyl-1,4-pregnadiene-3,20-dione in 29 ml of collidine and 90 ml of DMF is combined with 11 ml of methanesulfonic acid chloride containing 3% sulfur dioxide and agitated at room temperature. After 15 minutes, 15 ml of water is added under ice cooling. The thus-obtained precipitate is filtered off, washed with water, and dried in the open air. The crude product is chromatographed on silica gel. With 33-61% ethyl acetate-hexane, 12.1 g of 21-acetoxy-6α-chloro-16α-methyl-1,4,9(11)-pregnatriene-3,20-dione is obtained. A sample, recrystallized from ethyl acetate-hexane, melts at 181° C. [α]D25 =+22° (chloroform).

reactant | 21-acetoxy-6α-chloro-11β-hydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 14.0 g | C(C)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)Cl)C)=O | C24H31ClO5
reactant | methanesulfonic acid chloride | 11 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 15 ml | O | H2O
solvent | collidine | 29 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 21-acetoxy-6α-chloro-16α-methyl-1,4,9(11)-pregnatriene-3,20-dione | 12.1 g | C(C)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)Cl)C)=O | C24H29ClO4
